US08183231B2
((R)-3-{(S)-2-[(S)-2-Amino-3-(4-hydroxy-phenyl)-propionylamino]-3-methyl-butyrylamino}-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid
The title compound was prepared substantially following the procedures as set forth in Method B, Example 12, and employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-Tyr-Val-OH as the starting materials, which yielded the title compound as a white powder. 1H NMR (CD3OD, 300 MHz): δ 7.06 (d, 2H), 6.75 (d, 2H), 4.15-4.06 (m, 2H), 3.18-3.10 (m, 2H), 3.0-2.9 (m, 1H), 2.09-2.02 (m, 1H), 1.92-1.88 (m, 2H), 1.86-1.61 (m, 6H), 1.56-1.50 (m, 3H), 1.30-1.17 (m, 4H), 1.06-0.95 (m, 8H). 31P NMR (CD3OD, 300 MHz): δ 41.72. LCMS m/z: [M+H]+=498.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-Tyr-Val-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H26N2O6
product | ((R)-3-{(S)-2-[(S)-2-Amino-3-(4-hydroxy-phenyl)-propionylamino]-3-methyl-butyrylamino}-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)C(C)C)CC1=CC=C(C=C1)O | C24H40N3O6P
